US07375227B2
384D. 1-[(S)-1-(4-Benzyl-piperidin-1-ylmethyl)-2-methyl-propyl]-3-(2-methyl-quinolin-4-yl)-urea
To a solution of 1-[(S)-1-(4-benzyl-piperidine-1-carbonyl)-2-methyl-propyl]-3-(2-methyl-quinolin-4-yl)-urea in THF (10 mL) is added at 0° C. LiAlH4 (40 mg, 1 mmol). The reaction mixture is stirred at room temperature for 15 h and then quenched with EtOAc (1 mL) and sat. NaHCO3 (0.2 mL). The resulting precipitate is removed by filtration and the filtercake washed with MeOH (2×5 mL). The mixture is evaporated and the residue purified by TLC (SiO2, CH2Cl2/MeOH, 5/1) to provide the title compound.

reactant | 1-[(S)-1-(4-benzyl-piperidine-1-carbonyl)-2-methyl-propyl]-3-(2-methyl-quinolin-4-yl)-urea | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)[C@H](C(C)C)NC(=O)NC1=CC(=NC2=CC=CC=C12)C | C28H34N4O2
reactant | LiAlH4 | 1 mmol, 40 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-[(S)-1-(4-Benzyl-piperidin-1-ylmethyl)-2-methyl-propyl]-3-(2-methyl-quinolin-4-yl)-urea | C(C1=CC=CC=C1)C1CCN(CC1)C[C@H](C(C)C)NC(=O)NC1=CC(=NC2=CC=CC=C12)C | C28H36N4O
